US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 5-carboxy-2-oxindole to give 0.4 g of 3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 5-carboxy-2-oxindole | C(=O)(O)C=1C=C2CC(NC2=CC1)=O | C9H7NO3
product | 3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid | 0.4 g | C(C)(C)C=1C=C(C=C2C(NC3=CC=C(C=C23)C(=O)O)=O)C=C(C1OC)C(C)C | C23H25NO4
